US08168784B2
reacting ethyl 4-(4-((2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-en-1-yl)methyl)piperazin-1-yl)benzoate and aqueous sodium hydroxide, and isolating or not isolating the 4-(4-((2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-en-1-yl)methyl)piperazin-1-yl)benzoic acid; and

reactant | ethyl 4-(4-((2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-en-1-yl)methyl)piperazin-1-yl)benzoate | ClC1=CC=C(C=C1)C1=C(CC(CC1)(C)C)CN1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C28H35ClN2O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(4-((2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-en-1-yl)methyl)piperazin-1-yl)benzoic acid | ClC1=CC=C(C=C1)C1=C(CC(CC1)(C)C)CN1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C26H31ClN2O2
